US08541411B2
a) 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carbonitrile
To the mixture of 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxamide, prepared as described in Example 33 (0.4 g, 0.999 mmol) in Dichloromethane (DCM) (50 mL) was added in POCl3 (0.931 mL, 9.99 mmol) and followed by the addition of ten drops of DMF. The reaction was stirred at rt for 1 h. The mixture was quenched with aqueous sodium bicarbonate solution. The aqueous phase was extracted with DCM (100 mL). The combined organic phase was washed with Brine then dried (MgSO4), filtered and the solvent removed in-vacuo. The crude was purified on silica (20˜50% EtOAc/Hexane) to give the product (0.246 g, 64%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.45 (s, 3H), 2.96-3.15 (m, 4H), 3.62-3.72 (m, 4H), 6.05 (s, 2H), 6.32 (d, J=7.07 Hz, 1H), 7.29-7.44 (m, 3H), 7.57-7.74 (m, 2H), 7.86 (d, J=8.08 Hz, 1H), 8.02 (d, J=7.83 Hz, 1H) 8.22 (d, 1H). MS (ES+) m/z 383.2 [M+H]+.

reactant | 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxamide | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2C(=O)N)N2CCOCC2 | C24H24N4O2
reactant | POCl3 | 9.99 mmol, 0.931 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | Dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | DMF | ten drops | CN(C)C=O | C3H7NO
product | 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carbonitrile | 0.246 g, 64% | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2C#N)N2CCOCC2 | C24H22N4O
